US08242129B2
In a pressure vessel was added methyl 4-bromo-2-methylbenzoate (500 mg, 2.18 mmol), Dioxane (5.0 mL), Cs2CO3 (1.4 g, 4.36 mmol), and Xantphos (92.0 mg, 0.16 mmol). The mixture was stirred and nitrogen was bubbled into the reaction for 5 min before adding in Palladium(II) acetate (58 mg, 0.08 mmol), and commercially available N-methyl piperazine (0.26 mL, 2.62 mmol). The vessel was then sealed and heated to 100° C. overnight. The reaction was cooled and filtered through celite. The supernatant was then concentrated and column purified (5:95 EtOAc:Hexanes) to give methyl 2-methyl-4-(4-methylpiperazin-1-yl)benzoate (480 mg, 89% yield).

reactant | methyl 4-bromo-2-methylbenzoate | 2.18 mmol, 500 mg | BrC1=CC(=C(C(=O)OC)C=C1)C | C9H9BrO2
reactant | Cs2CO3 | 4.36 mmol, 1.4 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | N-methyl piperazine | 2.62 mmol, 0.26 mL | CN1CCNCC1 | C5H12N2
catalyst | Palladium(II) acetate | 0.08 mmol, 58 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | Xantphos | 0.16 mmol, 92.0 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | Dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
product | methyl 2-methyl-4-(4-methylpiperazin-1-yl)benzoate | 480 mg, 89% yield | CC1=C(C(=O)OC)C=CC(=C1)N1CCN(CC1)C | C14H20N2O2
